US07811370B2
In a 250 mL round-bottomed flask was added 2-amino-6-nonylpyrimidin-4(1H)-one (1.88 g, 7.92 mmol) in Pyridine 50 mL to give a white suspension. The mixture was heated to 50 deg/C. 11,12-bis(8-isocyanatooctyl)docosane (2.327 g, 3.77 mmol) was dissolved in 5-10 mL of pyridine and added all at once to the mixture. The reaction was heated to 75 deg/C. and stirred for 24 h. The pyridine was removed and the residue was taken up in chloroform and the viscous solution was dripped into a rapidly stirring solution (500 mL) of MeOH upon which a white solid formed. The solution was decanted off and the residue was taken up in MeOH (10 ml) and rapidly stirred for 1 h. The product was collected by vacuum filtration dried under vacuum to give 4 g of 1,1′-(9,10-didecyloctadecane-1,18-diyl)bis(3-(6-nonyl-4-oxo-1,4-dihydropyrimidin-2-yl)urea).

reactant | 2-amino-6-nonylpyrimidin-4(1H)-one | 7.92 mmol, 1.88 g | NC=1NC(=CC(N1)=O)CCCCCCCCC | C13H23N3O
reactant | 11,12-bis(8-isocyanatooctyl)docosane | 3.77 mmol, 2.327 g | N(=C=O)CCCCCCCCC(CCCCCCCCCC)C(CCCCCCCCCC)CCCCCCCCN=C=O | C40H76N2O2
solvent | Pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5-10 mL | N1=CC=CC=C1 | C5H5N
product | 1,1′-(9,10-didecyloctadecane-1,18-diyl)bis(3-(6-nonyl-4-oxo-1,4-dihydropyrimidin-2-yl)urea) | 4 g | C(CCCCCCCCC)C(CCCCCCCCNC(=O)NC=1NC(=CC(N1)=O)CCCCCCCCC)C(CCCCCCCCNC(=O)NC=1NC(=CC(N1)=O)CCCCCCCCC)CCCCCCCCCC | C66H122N8O4
